US08471005B2
m-Chloroperbenzoic acid (0.380 g, 1.54 mmol) was added to a solution of 7-[3-(1,1-Dioxido-1,2-thiazolidin-2-yl)phenyl]-2-(methylsulfanyl)pyrrolo[2,1-f][1,2,4]triazine (0.515 g, 1.43 mmol) in Methylene chloride (30.0 mL, 468 mmol). The reaction was quenched at 30 min by the addition of satd. NaHCO3 (50 mL). The mixture was stirred vigorously, sept. and ext. with DCM (3×15 mL). The comb. org. was washed with 1:1 brine:satd. NaHCO3 (50 mL) and dried over sodium sulfate. After conc. in vacuo, the residue was purified on the ISCO (load onto 3.4 g silica, 40 g column, 20-100% EtOAc:Hex, then to 10% MeOH:EtOAc, then 10% MeOH:DCM) to afford 7-[3-(1,1-Dioxido-1,2-thiazolidin-2-yl)phenyl]-2-(methylsulfinyl)pyrrolo[2,1-f][1,2,4]triazine (0.485 g, 90%). 1H-NMR (DMSO-d6): 9.34 (s, 1H), 8.16 (s, 1H), 7.95 (d, 1H, J=7.9 Hz), 7.72 (d, 1H, J=4.9 Hz), 7.55 (m, 1H), 7.34 (m, 2H), 3.87 (t, 2H, J=6.5 Hz), 3.57 (t, 2H, J=7.4 Hz), 2.99 (s, 3H), 2.44 (m, 2H).

reactant | m-Chloroperbenzoic acid | 1.54 mmol, 0.380 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 7-[3-(1,1-Dioxido-1,2-thiazolidin-2-yl)phenyl]-2-(methylsulfanyl)pyrrolo[2,1-f][1,2,4]triazine | 1.43 mmol, 0.515 g | O=S1(N(CCC1)C=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)SC)=O | C16H16N4O2S2
reactant | Methylene chloride | 468 mmol, 30.0 mL | C(Cl)Cl | CH2Cl2
product | 7-[3-(1,1-Dioxido-1,2-thiazolidin-2-yl)phenyl]-2-(methylsulfinyl)pyrrolo[2,1-f][1,2,4]triazine | 0.485 g, 90% | O=S1(N(CCC1)C=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)S(=O)C)=O | C16H16N4O3S2
